* ======================================================================
* NETLIST GENERATED FROM VIRTUOSO
* TOP CELL: DRAM_BANK
* ======================================================================

* ----------------------------------------------------------------------
* LEVEL 4: BITCELL (1T1C)
* ----------------------------------------------------------------------
.SUBCKT BITCELL BL WL SN VSS
* Cell access transistor
M0 BL WL SN VSS nmos_mac W=60n L=40n m=1
* Storage capacitor
C0 SN VSS 20f
.ENDS BITCELL

* ----------------------------------------------------------------------
* LEVEL 3: SWD (Sub-Wordline Driver) & SA Components
* ----------------------------------------------------------------------
.SUBCKT SWD_EVEN MWL_E WL<0> WL<2> VPP VSS
* Simplified inverter chain for even wordlines
M_P0 WL<0> MWL_E VPP VPP pmos_mac W=0.5u L=0.1u m=2
M_N0 WL<0> MWL_E VSS VSS nmos_mac W=0.2u 
+ L=0.1u m=1
M_P1 WL<2> MWL_E VPP VPP pmos_mac W=0.5u L=0.1u m=2
M_N1 WL<2> MWL_E VSS VSS nmos_mac W=0.2u L=0.1u m=1
.ENDS SWD_EVEN

.SUBCKT BLSA BL<0> BL_B<0> SAN SAP EQ CSL LIO LIO_B VSS
* EQ / Precharge
M_EQ1 BL<0> EQ VSS VSS nmos_mac W=0.2u L=0.1u
M_EQ2 BL_B<0> EQ VSS VSS nmos_mac W=0.2u L=0.1u
M_EQ3 BL<0> EQ BL_B<0> VSS nmos_mac W=0.2u L=0.1u

* Cross-coupled inverters for sensing
M_N1 BL<0> BL_B<0> SAN VSS nmos_mac W=0.4u L=0.1u
M_N2 BL_B<0> BL<0> SAN VSS nmos_mac W=0.4u L=0.1u
M_P1 BL<0> BL_B<0> SAP VPP pmos_mac W=0.8u L=0.1u
M_P2 BL_B<0> BL<0> SAP VPP pmos_mac W=0.8u L=0.1u

* Y-Gate column select
M_Y1 BL<0> CSL LIO VSS nmos_mac W=0.4u L=0.1u
M_Y2 BL_B<0> CSL LIO_B VSS nmos_mac W=0.4u L=0.1u
.ENDS BLSA

* ----------------------------------------------------------------------
* LEVEL 2: ARRAY_SECTION & SA_SECTION
* ----------------------------------------------------------------------
.SUBCKT MAT BL<0> BL<1> WL<0> WL<1> WL<2> WL<3> VSS
* 2x4 cell matrix example
X_CELL_0_0 BL<0> WL<0> SN_0_0 VSS BITCELL
X_CELL_0_1 BL<1> WL<0> SN_0_1 VSS BITCELL
X_CELL_1_0 BL<0> WL<1> SN_1_0 VSS BITCELL
X_CELL_1_1 BL<1> WL<1> SN_1_1 VSS BITCELL
* Line continuation test in instantiation
X_CELL_2_0 BL<0> WL<2> SN_2_0 
+ VSS BITCELL
X_CELL_2_1 BL<1> WL<2> SN_2_1 VSS BITCELL
X_CELL_3_0 BL<0> WL<3> SN_3_0 VSS BITCELL
X_CELL_3_1 BL<1> WL<3> SN_3_1 VSS BITCELL
.ENDS MAT

.SUBCKT ARRAY_SECTION BL<0> BL<1> MWL_E MWL_O VPP VSS
* Interleaved SWD and MAT structure
X_SWD_E MWL_E WL<0> WL<2> VPP VSS SWD_EVEN
X_MAT_0 BL<0> BL<1> WL<0> WL<1> WL<2> WL<3> VSS MAT
* Missing odd driver here for brevity, assume WL<1>, WL<3> are driven externally or by SWD_ODD
.ENDS ARRAY_SECTION

.SUBCKT SA_SECTION BL<0> BL_B<0> BL<1> BL_B<1> SAN SAP EQ CSL LIO LIO_B VSS
X_BLSA_0 BL<0> BL_B<0> SAN SAP EQ CSL LIO LIO_B VSS BLSA
X_BLSA_1 BL<1> BL_B<1> SAN SAP EQ CSL LIO LIO_B VSS BLSA
.ENDS SA_SECTION

* ----------------------------------------------------------------------
* LEVEL 1: TOP LEVEL DRAM BANK
* ----------------------------------------------------------------------
.SUBCKT DRAM_BANK MWL_E MWL_O SAN SAP EQ CSL LIO LIO_B VPP VSS
+ BL<0> BL<1> BL_B<0> BL_B<1>

* Top level array instantiation
X_ARRAY_SEC_0 BL<0> BL<1> MWL_E MWL_O VPP VSS ARRAY_SECTION
X_SA_SEC_0 BL<0> BL_B<0> BL<1> BL_B<1> SAN SAP EQ CSL LIO LIO_B VSS SA_SECTION

.ENDS DRAM_BANK
